US07750154B2
Using an analogous procedure to that described paragraph (13) in the portion of Example 1 which is concerned with the preparation of starting materials, 1-(methylsulfonyl)piperazine was reacted with N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[4-(methylsulfonyl)piperazin-1-yl]-2-nitrobenzamide; NMR Spectrum: (DMSOd6) 0.64 (m, 4H), 2.31 (s, 3H), 2.84 (m, 1H), 2.93 (s, 3H), 3.26 (m, 4H), 3.64 (m, 4H), 7.13 (m, 2H), 7.29 (d, 1H), 7.58 (d, 1H), 7.98 (s, 1H), 8.08 (t, 1H), 8.37 (d, 1H), 9.95 (s, 1H); Mass Spectrum: M−H+ 500.

reactant | 1-(methylsulfonyl)piperazine | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[4-(methylsulfonyl)piperazin-1-yl]-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)N1CCN(CC1)S(=O)(=O)C)[N+](=O)[O-])=O)C | C23H27N5O6S
